US08685986B2
Reaction and post-treatment were carried out in the same manner as in Example 2-(a) except for using tert-butyl([tert-butoxycarbonyl(6-hydroxymethylpyridin-2-yl)amino]acetate (101 mg, 0.298 mmol) obtained in Reference Example 3-(b), and using 4-fluoro-N-[4-(thiazol-2-yl)benzyl]benzenesulfonamide (105 mg, 0.301 mmol) obtained in Reference Example 6 in place of N-[4-(thiazol-2-yl)benzyl]pyridin-3-ylsulfonamide to afford the title compound (181 mg) as a white foam. (Yield: 91%) Mass spectrum (FAB, m/z): 669 (M++1).

reactant | [tert-butoxycarbonyl(6-hydroxymethylpyridin-2-yl)amino]acetate | 0.298 mmol, 101 mg | C(C)(C)(C)OC(=O)N(C1=NC(=CC=C1)CO)CC(=O)[O-]
reactant | 4-fluoro-N-[4-(thiazol-2-yl)benzyl]benzenesulfonamide | 0.301 mmol, 105 mg | FC1=CC=C(C=C1)S(=O)(=O)NCC1=CC=C(C=C1)C=1SC=CN1 | C16H13FN2O2S2
product | N-[4-(thiazol-2-yl)benzyl]pyridin-3-ylsulfonamide | S1C(=NC=C1)C1=CC=C(CNS(=O)(=O)C=2C=NC=CC2)C=C1 | C15H13N3O2S2
